US05763437
To a solution of 2-adamantanone (2.00 g) in formic acid (10 ml) was added dropwise a suspension of hydroxyamine-O-sulfonic acid (2.26 g) in formic acid (7 ml) under stirring at ambient temperature. The mixture was heated at reflux temperature for 3.5 hours. The reaction mixture was allowed to cool to room temperature, alkalined with 1N sodium hydroxide aqueous solution and extracted with chloroform twice. The combined extracts were washed with water and dried over sodium sulfate. Removal of the solvent gave 2-azatricyclo[4.3.1.14,8 ]undecan-3-one (2.14 g), which was used in a following reaction step without further purification.

reactant | 2-adamantanone | 2.00 g | C12C(C3CC(CC(C1)C3)C2)=O | C10H14O
reactant | hydroxyamine-O-sulfonic acid | 2.26 g | ONS(=O)(=O)O | H3NO4S
reactant | sodium hydroxide | 1N | [OH-].[Na+]
solvent | formic acid | 10 ml | C(=O)O | CH2O2
solvent | formic acid | 7 ml | C(=O)O | CH2O2
product | 2-azatricyclo[4.3.1.14,8 ]undecan-3-one | 2.14 g | C12NC(C3CC(CC(C1)C3)C2)=O | C10H15NO
